US06147110
Step a: 5-Methoxy-2-(1-phenylmethylidene)-2,3-dihydro-3-benzo[b]furanone
36.5 mmol (3.9 g) of benzaldehyde are added to a solution of 30.5 mmol (5 g) of 5-methoxy-3-benzo[b]furanone in 150 ml of dichloromethane. With vigorous stirring and at ambient temperature, 25 g of basic alumina are then added. Stirring is maintained at ambient temperature for 30 minutes. The mixture is then filtered, the filtrate is concentrated and the residue obtained is washed with a minimum amount of ethanol to yield the expected compound. Melting point: 134° C.

reactant | benzaldehyde | 36.5 mmol, 3.9 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 5-methoxy-3-benzo[b]furanone | 30.5 mmol, 5 g | COC1=CC2=C(OCC2=O)C=C1 | C9H8O3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 5-Methoxy-2-(1-phenylmethylidene)-2,3-dihydro-3-benzo[b]furanone | COC1=CC2=C(OC(C2=O)=CC2=CC=CC=C2)C=C1 | C16H12O3
